US08461161B2
A mixture of m-toluamide (164 mg, 1.21 mmol), 3-[(1S)-1-azidoethyl]-5-bromopyridine (227 mg, 1 mmol), copper (I) iodide (9.6 mg, 0.05 mmol), N,N-dimethylethylene diamine (0.011 mL, 0.1 mmol) and potassium carbonate (276 mg, 2 mmol) in dioxane (1 mL) was heated in a microwave reactor at 110° C. for 30 minutes then at 160° C. for a further 30 minutes. After this time the mixture was allowed to cool to room temperature, was diluted with ethyl acetate (5 mL) and was filtered through Celite. The filtrate was concentrated under reduced pressure to give a brown oil which was purified by flash chromatography (silica, ethyl acetate/dichloromethane) to give N-{5-[(1S)-1-azidoethyl]pyridin-3-yl}-3-methylbenzamide (80 mg, 28%) as a colourless oil.

reactant | m-toluamide | 1.21 mmol, 164 mg | C1(=CC(=CC=C1)C(=O)N)C | C8H9NO
reactant | 3-[(1S)-1-azidoethyl]-5-bromopyridine | 1 mmol, 227 mg | N(=[N+]=[N-])[C@@H](C)C=1C=NC=C(C1)Br | C7H7BrN4
reactant | N,N-dimethylethylene diamine | 0.1 mmol, 0.011 mL | CN(CCN)C | C4H12N2
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.05 mmol, 9.6 mg | [Cu]I
product | N-{5-[(1S)-1-azidoethyl]pyridin-3-yl}-3-methylbenzamide | 80 mg, 28% | N(=[N+]=[N-])[C@@H](C)C=1C=C(C=NC1)NC(C1=CC(=CC=C1)C)=O | C15H15N5O
